US05939451
0.79 g (0.00234 mol) of 4-amino-N-(2,6-bis-ethylamino-pyrimidin-4-yl)-benzenesulfonamide was dissolved in 150 ml of methanol, treated with 2.0 ml (0.0070 mol) of 3.5N ethanolic hydrochloric acid and stirred at 0° C. for 2 hours. The solution was freed completely from solvent and the residue was recrystallized from ethanol/diethyl ether. There was obtained 0.61 g (70%) of 4-amino-N-(2,6-bis-ethylamino-pyrimidin-4-yl)-benzenesulfonamide hydrochloride as pale beige crystals; m.p. 197-208° C.

reactant | 4-amino-N-(2,6-bis-ethylamino-pyrimidin-4-yl)-benzenesulfonamide | 0.00234 mol, 0.79 g | NC1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1)NCC)NCC | C14H20N6O2S
reactant | hydrochloric acid | 0.0070 mol, 3.5N, 2.0 ml | Cl | ClH
solvent | methanol | 150 ml | CO | CH4O
product | 4-amino-N-(2,6-bis-ethylamino-pyrimidin-4-yl)-benzenesulfonamide hydrochloride | 0.61 g, 70% | Cl.NC1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1)NCC)NCC | InChI=1S/C14H20N6O2S.ClH/c1-3-16-12-9-13(19-14(18-12)17-4-2)20-23(21,22)11-7-5-10(15)6-8-11;/h5-9H,3-4,15H2,1-2H3,(H3,16,17,18,19,20);1H
